US09376442B2
tert-Butyl {trans-4-[({4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-7-yl}carbonyl)amino]cyclohexyl}carbamate
Starting from 4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example D.g1) and commercially available tert-butyl trans-(4-aminocyclohexyl)-carbamate the title compound is obtained as pale yellow foam.

reactant | 4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C=C(C=C1)C(F)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)O | C19H17F2N3O3
reactant | tert-butyl trans-(4-aminocyclohexyl)-carbamate | N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H22N2O2
product | tert-Butyl {trans-4-[({4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-7-yl}carbonyl)amino]cyclohexyl}carbamate | C1(CC1)COC1=C(C=C(C=C1)C(F)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@@H]2CC[C@H](CC2)NC(OC(C)(C)C)=O | C30H37F2N5O4
